US05792886
A solution is formed by dissolving 24 grams of 2-bromo-6-methoxynaphthalene prepared as in Example 7 above in 300 mL of tetrahydrofuran. The resulting solution is slowly added to 2.5 grams of magnesium turnings in 100 mL of tetrahydrofuran at reflux temperature. After the addition is complete, 20 grams of cadmium chloride is added, and the resultant mixture is refluxed for 10 minutes to yield a solution of 6-methoxy-2-naphthylcadmium chloride in tetrahydrofuran. A solution of 18 grams of ethyl 2-bromopropionate in 20 mL of tetrahydrofuran is then added to the cooled reaction mixture. After 24 hours at 20° C., the product is hydrolyzed by adding 200 mL of 5 weight percent methanolic sodium hydroxide followed by heating to reflux for 1 hour. The reaction mixture is then diluted with excess 1N sulfuric acid and extracted with ether. The ether phase is separated, evaporated to dryness and the residue is recrystallized from acetone-hexane to yield 2-(6-methoxy-2-naphthyl)propionic acid.

reactant | 2-bromo-6-methoxynaphthalene | 24 grams | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | magnesium | 2.5 grams | [Mg] | Mg
reactant | cadmium chloride | 20 grams | [Cl-].[Cd+2].[Cl-]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 6-methoxy-2-naphthylcadmium chloride | [Cl-].COC=1C=C2C=CC(=CC2=CC1)[Cd+] | InChI=1S/C11H9O.Cd.ClH/c1-12-11-7-6-9-4-2-3-5-10(9)8-11;;/h3-8H,1H3;;1H/q;+1;/p-1
